US04622326
6-Ethyl-3-phenyl-6H-isoxazolo[5,4-d]pyrazolo[3,4-b]pyridine
5-Benzoyl-1-ethyl-4-isopropylideneaminooxy-1H-pyrazolo[3,4-b]pyridine (2.50 g) was refluxed for 2 hours in a mixture prepared from 100 ml of 5% hydrochloric acid and 15 ml of ethanol. The reaction mixture was then extracted into ether and washed consecutively with 5% sodium hydroxide solution and water. Evaporation of the organic phase gave 1.65 g of product. An analytical sample recrystallized from ethyl acetate/methanol had mp 151°-153° C.

reactant | 5-Benzoyl-1-ethyl-4-isopropylideneaminooxy-1H-pyrazolo[3,4-b]pyridine | 2.50 g | C(C1=CC=CC=C1)(=O)C=1C(=C2C(=NC1)N(N=C2)CC)ON=C(C)C | C18H18N4O2
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 6-Ethyl-3-phenyl-6H-isoxazolo[5,4-d]pyrazolo[3,4-b]pyridine | 1.65 g | C(C)N1N=CC=2C1=NC=C1C2ON=C1C1=CC=CC=C1 | C15H12N4O
